US05891889
Step B: Preparation of 4-hydroxymethyl-4-(3-methylphenylamino)-piperidine hydrochloride salt
A mixture of 1-benzyl-4-hydroxymethyl-4-(3-methylphenylamino)piperidine (0.2 g, 0.64 mmol) and 10% palladium on charcoal (0.4 g) in a mixture of methanol (15 mL) and methanol saturated with anhydrous hydrochloride gas (10 mL) was shaken in a Parr hydrogenator at 60 psi for 24 h. The resultant mixture was filtered through a plug of Celite, and the filtrate was concentrated to provide the title compound.

reactant | 1-benzyl-4-hydroxymethyl-4-(3-methylphenylamino)piperidine | 0.64 mmol, 0.2 g | C(C1=CC=CC=C1)N1CCC(CC1)(NC1=CC(=CC=C1)C)CO | C20H26N2O
reactant | hydrochloride | 10 mL | Cl | ClH
catalyst | palladium on charcoal | 0.4 g | [Pd] | Pd
solvent | methanol | 15 mL | CO | CH4O
product | 4-hydroxymethyl-4-(3-methylphenylamino)-piperidine hydrochloride salt | Cl.OCC1(CCNCC1)NC1=CC(=CC=C1)C | InChI=1S/C13H20N2O.ClH/c1-11-3-2-4-12(9-11)15-13(10-16)5-7-14-8-6-13;/h2-4,9,14-16H,5-8,10H2,1H3;1H
